US07435731B2
Step 4. Preparation of (S)-1-[3-(2-chlorophenyl)-6-methylsulfanyl-1H-pyrazolo[3,4-d]pyrimidin-4-ylamino]-propan-2-ol
To a mixture of 4-chloro-3-(2-chloro-phenyl)-6-methylsulfanyl-1H-pyrazolo[3,4-d]pyrimidine (300 mg, 0.964 mmol) and N,N-diisopropylethyl amine (0.34 mL, 2 eq) in THF (5 mL) was added dropwise a solution of (S)-(+)-1-amino-2-propanaol (Aldrich) (0.217 g, 3 eq) in THF. The resulting mixture was stirred at room temperature overnight. The reaction was monitored by TLC analysis. The reaction mixture was diluted with ethyl acetate (150 mL) and water (70 mL). The organic layer was separated, washed with water (2×70 mL) and brine (1×70 mL), dried over magnesium sulfate, filtered and concentrated to give the title compound as an off-white solid (328 mg, (M+H)+=350).

reactant | 4-chloro-3-(2-chloro-phenyl)-6-methylsulfanyl-1H-pyrazolo[3,4-d]pyrimidine | 0.964 mmol, 300 mg | ClC1=C2C(=NC(=N1)SC)NN=C2C2=C(C=CC=C2)Cl | C12H8Cl2N4S
reactant | N,N-diisopropylethyl amine | 0.34 mL, 2 eq | C(C)(C)N(C(C)C)CC | C8H19N
reactant | THF | 5 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | 150 mL | C(C)(=O)OCC | C4H8O2
solvent | water | 70 mL | O | H2O
product | (S)-1-[3-(2-chlorophenyl)-6-methylsulfanyl-1H-pyrazolo[3,4-d]pyrimidin-4-ylamino]-propan-2-ol | 328 mg | ClC1=C(C=CC=C1)C1=NNC2=NC(=NC(=C21)NC[C@H](C)O)SC | C15H16ClN5OS
